US07566707B2
2-bromo-3-(3-methyl-2-buten-1-yl)-3,5-dihydro-imidazo[4,5-c]pyridin-4-one
1.55 g Burgess reagent (methoxycarbonylsulphamoyl-triethylammonium-N-betaine) are added to 1.60 g of 2-bromo-7-hydroxy-3-(3-methyl-2-buten-1-yl)-3,5,6,7-tetrahydro-imidazo[4,5-c]pyridin-4-one in 20 ml methylene chloride and 4 ml of tetrahydrofuran. The reaction mixture is stirred for eight hours at 60° C., then another 0.3 equivalents Burgess reagent is added. After a further two hours the cooled reaction mixture is combined with aqueous sodium hydrogen carbonate solution and extracted with ethyl acetate. The combined organic phases are dried over magnesium sulphate and evaporated down. The flask residue is chromatographed through a silica gel column with methylene chloride/methanol (1:0 to 10:1) as eluant.

reactant | Burgess reagent | 1.55 g | CC[N+](CC)(CC)S(=O)(=O)N=C([O-])OC | C8H18N2O4S
reactant | 2-bromo-7-hydroxy-3-(3-methyl-2-buten-1-yl)-3,5,6,7-tetrahydro-imidazo[4,5-c]pyridin-4-one | 1.60 g | BrC1=NC2=C(C(NCC2O)=O)N1CC=C(C)C | C11H14BrN3O2
reactant | Burgess reagent | 0.3 equivalents | CC[N+](CC)(CC)S(=O)(=O)N=C([O-])OC | C8H18N2O4S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | 2-bromo-3-(3-methyl-2-buten-1-yl)-3,5-dihydro-imidazo[4,5-c]pyridin-4-one | BrC1=NC2=C(C(NC=C2)=O)N1CC=C(C)C | C11H12BrN3O
